US05977178
2-tert-Butoxycarbonylamino-3-(1-naphthyl)propionic acid (5.0 g; 0.015 mol) was dissolved in tetrahydrofuran (40 mL). Iodomethane (7.6 mL; 0.12 mol) was added. The reaction mixture was cooled to 0° C. and sodium hydride was added. The reaction mixture was stirred for 48 hours. Ethyl acetate (50 mL) and water (20 mL) were added dropwise. The solvent was removed in vacuo and ether (30 mL) and water (20 mL) were added. The organic phase was washed with an aqueous solution of sodium hydrogen carbonate (pH 8; 30 mL). To the aqueous phases was added citric acid (5%) to pH 3. The aqueous phase was extrated with ethylacetate (3×30 mL). The combined organic phases were washed with water (2×40 mL), an aqueous solution of sodiumthiosulfate (5%; 40 mL) and water (40 mL) and dried (magnesium sulfate). The solvent was removed in vacuo and ether (10 mL) and dicyclohexylamine (8.5 mL) were added. The precipitated crystals were filtered off and dissolved in water (20 mL). Hydrochloric acid was added to pH 2. The reaction mixture was extrated with ethyl acetate (4×40 mL), dried (magnesium sulfate) and evaporated in vacuo to afford 3.97 g of (2R)-2-(tert-butoxycarbonyl methylamino)-3-(1-naphthyl)propionic acid.

reactant | 2-tert-Butoxycarbonylamino-3-(1-naphthyl)propionic acid | 0.015 mol, 5.0 g | C(C)(C)(C)OC(=O)NC(C(=O)O)CC1=CC=CC2=CC=CC=C12 | C18H21NO4
reactant | Iodomethane | 0.12 mol, 7.6 mL | IC | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | Ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | water | 20 mL | O | H2O
product | (2R)-2-(tert-butoxycarbonyl methylamino)-3-(1-naphthyl)propionic acid | 3.97 g | C(C)(C)(C)OC(=O)N([C@@H](C(=O)O)CC1=CC=CC2=CC=CC=C12)C | C19H23NO4
